US08669266B2
(ii) 4-((S)-2-Amino-4,4-difluoro-butyryl)piperazine-1-carboxylic acid butyl ester
To a solution of 168 mg 4-((S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyryl)-piperazine-1-carboxylic acid butyl ester in 15 ml ethyl acetate were added 100 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (1 bar) for 1 h. The reaction mixture was filtrated over a plug of Celite®, washed with ethyl acetate and concentrated. Yield: 97 mg colorless oil

reactant | 4-((S)-2-Benzyloxycarbonylamino-4,4-difluoro-butyryl)-piperazine-1-carboxylic acid butyl ester | 168 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC(F)F)NC(=O)OCC1=CC=CC=C1)=O | C21H29F2N3O5
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-((S)-2-Amino-4,4-difluoro-butyryl)piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC(F)F)N)=O | C13H23F2N3O3
